US07291631B2
Using General Procedure B, (4-amino-butyl)-methyl-carbamic acid tert-butyl ester, 3-[1-(4-chloro-phenyl)-1-methyl-ethyl]-pyridine-2-carbaldehyde and NaBH(OAc)3 were reacted to give [4-({3-[1-(4-chloro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-amino)-butyl]-methyl-carbamic acid tert-butyl ester as a colorless oil. 1H NMR (CDCl3) δ 1.24-1.32 (m, 2H), 1.33-1.42 (m, 11H), 1.65 (s, 6H), 2.20-2.24 (m, 2H), 2.79 (s, 3H), 3.08-3.12 (m, 2H), 3.26 (s, 2H), 7.05-7.08 (m, 2H), 7.21-7.26 (m, 3H), 7.84-7.87 (m, 1H), 8.46-8.48 (m, 1H).

reactant | (4-amino-butyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCCCN)=O | C10H22N2O2
reactant | 3-[1-(4-chloro-phenyl)-1-methyl-ethyl]-pyridine-2-carbaldehyde | ClC1=CC=C(C=C1)C(C)(C)C=1C(=NC=CC1)C=O | C15H14ClNO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | [4-({3-[1-(4-chloro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-amino)-butyl]-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCCCNCC1=NC=CC=C1C(C)(C)C1=CC=C(C=C1)Cl)=O | C25H36ClN3O2
